US06107329
[(1S)-Benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester
3-Hydroxyazetidine hydrochloride (J. Chem. Soc., Chem. Commun. 1968, p93, 27 mmol) and N-t-Boc-L-phenylalanine (27 mmol) were coupled according to Procedure A giving the title substance as a colorless foam (8.15 g, 93%).

reactant | 3-Hydroxyazetidine hydrochloride | 27 mmol | Cl.OC1CNC1
reactant | N-t-Boc-L-phenylalanine | 27 mmol | CC(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
product | [(1S)-Benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](C(=O)N1CC(C1)O)CC1=CC=CC=C1)=O | C17H24N2O4
